US08022167B2
2-Methylglutaronitrile was combined with Pd.C (5 mol % of 10 wt % Pd on carbon) in a 10 mL Hastelloy shaker autoclave to which liquid NH3 was added. The mixture was heated at 200° C. for 45 h. The mixture was cooled to ambient temperature and the excess NH3 removed by N2 purge. The crude mixture was suspended in 10 mL anhydrous methanol, the catalyst was removed by syringe filtration, and the crude reaction mixture was concentrated in vacuo. 2-Methylglutaronitrile conversion was 100% to give 0.02 mmol of 3-methylpyridine-2,6-diamine in 2.3% net yield.

reactant | 2-Methylglutaronitrile | CC(C#N)CCC#N | C6H8N2
reactant | NH3 | N | H3N
catalyst | Pd | [Pd] | Pd
product | 3-methylpyridine-2,6-diamine | 0.02 mmol | CC=1C(=NC(=CC1)N)N | C6H9N3
